data/polar.json
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[CH:1]1=[CH:6][c:7]2[cH:12][cH:11][cH:26][cH:9][c:17]2[CH:27]1[Na:21].[O-:2][n+:8]1[o:23][n:16][c:10]2[c:14]3[n+:5]([O-:18])[o:3][n:20][c:15]3[c:19]([N+:4]([O-:22])=[O:24])[cH:13][c:25]12>>[CH:1]1=[CH:6][c:7]2[cH:12][cH:11][cH:26][cH:9][c:17]2[CH:27]1[CH:13]1[C:19](=[N+:4]([O-:22])[O-:24])[c:15]2[c:14]([n+:5]([O-:18])[o:3][n:20]2)-[c:10]2[n:16][o:23][n+:8]([O-:2])[c:25]21.[Na+:21]", "epd": [["Sigma-/Sigma+", [27, 21], [27, 13]], ["Pi-/Pi+", [13, 19], [19, 4]], ["Pi-/LP+", [4, 24], [24]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[S:1]([c:7]1[cH:19][cH:12][cH:11][cH:13][cH:20]1)([O-:8])=[O:17].[c:2]1([N+:5](=[O:16])[O-:18])[s:6][cH:3][c:9]([N+:4](=[O:10])[O-:14])[cH:15]1>>[S+:1]([CH:3]1[S:6][C:2]([N+:5](=[O:16])[O-:18])=[CH:15][C:9]1=[N+:4]([O-:10])[O-:14])([c:7]1[cH:19][cH:12][cH:11][cH:13][cH:20]1)([O-:8])=[O:17]", "epd": [["LP-/Sigma+", [1], [1, 3]], ["Pi-/Pi+", [3, 9], [9, 4]], ["Pi-/LP+", [4, 10], [10]]]}
{"reaction_name": "General nucleophilic addition to an iminium C=N+ center", "rsmi": "[S-:6][c:17]1[cH:7][cH:25][cH:24][c:19]([C:26]([F:10])([F:11])[F:12])[cH:18]1.[c:1]12[c:4]([cH:15][cH:13][cH:22][cH:8]1)-[c:5]1[c:2]([cH:9][cH:23][cH:14][cH:16]1)[N+:21]2=[CH:3][CH3:20]>>[c:1]12[c:4]([c:5]3[c:2]([cH:9][cH:23][cH:14][cH:16]3)[n:21]1[CH:3]([S:6][c:17]1[cH:7][cH:25][cH:24][c:19]([C:26]([F:10])([F:11])[F:12])[cH:18]1)[CH3:20])[cH:15][cH:13][cH:22][cH:8]2", "epd": [["LP-/Sigma+", [6], [6, 3]], ["Pi-/LP+", [3, 21], [21]]]}
{"reaction_name": "Vinylogous Michael addition", "rsmi": "[CH3:2][O:5][c:7]1[cH:27][cH:15][c:13]([CH:22]=[C:21]2[CH:23]=[C:10]([Br:18])[C:12](=[O:17])[C:11]([Br:19])=[CH:24]2)[cH:16][cH:28]1.[CH:1]1=[CH:3][c:4]2[cH:9][cH:8][cH:25][cH:6][c:14]2[CH:26]1[Na:20]>>[CH:1]1=[CH:3][c:4]2[cH:9][cH:8][cH:25][cH:6][c:14]2[CH:26]1[CH:22]([c:13]1[cH:15][cH:27][c:7]([O:5][CH3:2])[cH:28][cH:16]1)[c:21]1[cH:23][c:10]([Br:18])[c:12]([O-:17])[c:11]([Br:19])[cH:24]1.[Na+:20]", "epd": [["Sigma-/Sigma+", [26, 20], [26, 22]], ["Pi-/Pi+", [22, 21], [21, 23]], ["Pi-/Pi+", [23, 10], [10, 12]], ["Pi-/LP+", [12, 17], [17]]]}
{"reaction_name": "Michael addition", "rsmi": "[S:2]([c:9]1[cH:26][cH:14][cH:12][cH:17][cH:29]1)([C:24]([S:3]([c:10]1[cH:27][cH:15][cH:13][cH:16][cH:28]1)(=[O:33])=[O:34])=[CH2:6])(=[O:35])=[O:36].[cH:1]1[cH:18][cH:4][c:23]([C:20](=[C:7]2[N:8]([CH3:31])[C:21]([CH3:30])=[C:37]([CH3:32])[S:22]2)[O:25][CH3:11])[cH:5][cH:19]1>>[cH:1]1[cH:18][cH:4][c:23]([C:20]([CH2:6][C-:24]([S:2]([c:9]2[cH:26][cH:14][cH:12][cH:17][cH:29]2)(=[O:35])=[O:36])[S:3]([c:10]2[cH:27][cH:15][cH:13][cH:16][cH:28]2)(=[O:33])=[O:34])([c:7]2[n+:8]([CH3:31])[c:21]([CH3:30])[c:37]([CH3:32])[s:22]2)[O:25][CH3:11])[cH:5][cH:19]1", "epd": [["LP-/Pi+", [8], [7, 8]], ["Pi-/Sigma+", [20, 7], [20, 6]], ["Pi-/LP+", [6, 24], [24]]]}
{"reaction_name": "Iodine-mediated oxidation", "rsmi": "[C:3]([CH3:5])([CH3:6])([H:7])[O:8][H:4].[I:1][I:2]>>[C:3]([CH3:5])([CH3:6])=[O:8].[I:1][H:4].[I:2][H:7]", "epd": [["LP-/Sigma+", [1], [1, 4]], ["Sigma-/LP+", [4, 8], [8]], ["LP-/Pi+", [8], [3, 8]], ["Sigma-/LP+", [1, 2], [1]], ["Sigma-/Sigma+", [3, 7], [2, 7]]]}
{"reaction_name": "Lead tetraacetate glycol cleavage", "rsmi": "[O:1]([H:3])[CH2:4][CH2:5][O:2][H:6].[Pb+4:7].[O-:8][C:9](=[O:10])[CH3:11].[O-:12][C:13](=[O:14])[CH3:15].[O-:16][C:17](=[O:18])[CH3:19].[O-:20][C:21](=[O:22])[CH3:23]>>[O:1]=[CH2:4].[O:2]=[CH2:5].[Pb:7]([O:8][C:9](=[O:10])[CH3:11])[O:12][C:13](=[O:14])[CH3:15].[O:16]([H:3])[C:17](=[O:18])[CH3:19].[O:20]([H:6])[C:21](=[O:22])[CH3:23]", "epd": [["LP-/Sigma+", [16], [3, 16]], ["Sigma-/LP+", [1, 3], [1]], ["LP-/Sigma+", [1], [1, 7]], ["LP-/Sigma+", [20], [6, 20]], ["Sigma-/LP+", [2, 6], [2]], ["LP-/Pi+", [2], [2, 5]], ["Sigma-/Pi+", [4, 5], [1, 4]], ["Sigma-/LP+", [1, 7], [7]], ["LP-/Sigma+", [8], [7, 8]], ["LP-/Sigma+", [12], [7, 12]]]}
{"reaction_name": "General nucleophilic addition to a neutral imine", "rsmi": "[C:1]([O:12][C:21](=[O:9])[N:17]=[CH:11][c:7]1[cH:3][cH:13][cH:16][cH:14][cH:4]1)([CH3:18])([CH3:19])[CH3:20].[cH:2]1[n:5][c:10]([O-:8])[cH:22][cH:6][cH:15]1>>[C:1]([O:12][C:21]([O-:9])=[N:17][CH:11]([n:5]1[cH:2][cH:15][cH:6][cH:22][c:10]1=[O:8])[c:7]1[cH:3][cH:13][cH:16][cH:14][cH:4]1)([CH3:18])([CH3:19])[CH3:20]", "epd": [["Pi-/Sigma+", [2, 5], [5, 11]], ["LP-/Pi+", [8], [8, 10]], ["Pi-/LP+", [9, 21], [9]], ["Pi-/Pi+", [6, 15], [2, 15]], ["Pi-/Pi+", [11, 17], [17, 21]], ["Pi-/Pi+", [10, 22], [6, 22]]]}
{"reaction_name": "Betaine zwitterion formation", "rsmi": "[N:2]([CH3:8])([CH3:9])[CH3:10].[O:1]=[C:7]([CH:4]=[CH2:5])[O:6][CH3:3]>>[O-:1][C:7](=[CH:4][CH2:5][N+:2]([CH3:8])([CH3:9])[CH3:10])[O:6][CH3:3]", "epd": [["LP-/Sigma+", [2], [2, 5]], ["Pi-/Pi+", [4, 5], [4, 7]], ["Pi-/LP+", [1, 7], [1]]]}
